US04517187
To a stirred solution of 1.0 M borane in tetrahydrofuran (200 ml) maintained under nitrogen at ambient temperature was added cis-1,3,4,6,7,11b-hexahydro-2-ethyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline-3,4-dione (9.9 g, 0.03 m) and the mixture heated to reflux for 2 hours. The mixture was cooled in an ice bath and carefully treated with 10% HCl (125 ml), refluxed for 1 hour, and the solvent removed on an aspirator. The residue was treated with water (300 ml), basified to pH 11 with 50% NaOH, and extracted with chloroform. The extracts were dried over MgSO4 and evaporated to a pale yellow oil. This oil was dissolved in methanol (100 ml) and isopropanol (100 ml) and acidified with HCl gas. Upon cooling and standing, a white solid crystallized which was collected by filtration. Recrystallization and vacuum drying gave 4.0 g of cis-1,3,4,6,7,11b-hexahydro-2-ethyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride, m.p. 276°-277° C. The product has an ad cyc H rating greater than 1×10-5M, a (3H)mepyramine rating of 3.4×10-7 and a (3H)QNB rating of 1.1×10-6M.

reactant | borane | 1.0 M | B | BH3
reactant | cis-1,3,4,6,7,11b-hexahydro-2-ethyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline-3,4-dione | 9.9 g | C(C)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)C(C1=O)=O | C20H20N2O2
reactant | HCl | 125 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | cis-1,3,4,6,7,11b-hexahydro-2-ethyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline dihydrochloride | 4.0 g | Cl.Cl.C(C)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)CC1 | InChI=1S/C20H24N2.2ClH/c1-2-21-12-13-22-14-19(16-8-4-3-5-9-16)17-10-6-7-11-18(17)20(22)15-21;;/h3-11,19-20H,2,12-15H2,1H3;2*1H/t19-,20-;;/m0../s1
